US07696223B2
c) {[2-(3-Chloro-4-fluoro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid
A mixture of 2-(3-chloro-4-fluoro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (101 mg, 0.29 mmole) and glycine (429 mg, 5.72 mmole) in 0.5 M sodium methoxide/methanol (10.9 ml, 5.43 mmole) was refluxed for 4 days before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (100 ml) and extracted with dichloromethane (3×50 ml). The remaining aqueous layer was acidified to pH=3 with 1N HCl (6.5 ml). The resulting precipitate was filtered, washed with water and dried in vacuo to give the title compound as a brown solid (58 mg). 1H NMR (DMSO-d6, 200 MHz): δ=9.50 (br s, 1H), 8.89 (s, 1H), 8.36 (m, 1H), 8.16 (m, 1H), 7.65 (t, 1H), 4.03 (d, 2H, J=5.8 Hz); MS: (+) m/z 382.19 (M+1).

reactant | 2-(3-chloro-4-fluoro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.29 mmole, 101 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C2=CC(=C(C=C2)F)Cl)O | C15H10ClFN2O3S
reactant | glycine | 5.72 mmole, 429 mg | NCC(=O)O | C2H5NO2
reactant | sodium methoxide methanol | 5.43 mmole, 0.5 M, 10.9 ml | C[O-].[Na+].CO
product | {[2-(3-Chloro-4-fluoro-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carbonyl]-amino}-acetic acid | 58 mg | ClC=1C=C(C=CC1F)C=1SC2=C(C=NC(=C2O)C(=O)NCC(=O)O)N1 | C15H9ClFN3O4S
